US05026707
Preparation of 1-Methyl-2-piperazinyl-8-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride
Using the method of Example 11, 1.94 g (10 mmol) of 1-methyl-8-chloro-2-tetralone were treated with piperazine followed by reduction with sodium borohydride and treatment with HCl to produce 0.67 g of the title compound as colorless crystals; m.p. >200° C.

reactant | 1-methyl-8-chloro-2-tetralone | 10 mmol, 1.94 g | CC1C(CCC2=CC=CC(=C12)Cl)=O | C11H11ClO
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | HCl | Cl | ClH
product | 1-Methyl-2-piperazinyl-8-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride | 0.67 g | Cl.Cl.CC1C(CCC2=CC=CC(=C12)Cl)N1CCNCC1 | InChI=1S/C15H21ClN2.2ClH/c1-11-14(18-9-7-17-8-10-18)6-5-12-3-2-4-13(16)15(11)12;;/h2-4,11,14,17H,5-10H2,1H3;2*1H
